US07227023B2
To a suspension of sodium hydride (60%, 0.33 g, 8.3 mmol) in anhydrous N,N-dimethylformamide (30 ml) was added 6-hydroxyquinoline (1.0 g, 6.9 mmol) at room temperature. The reaction mixture was stirred for 1 hour, then allyl bromide (0.72 ml, 8.3 mmol) was added. The reaction mixture was allowed to stir for 1 hour at room temperature, quenched with water and extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum. Chromatography (50% hexanes-ethyl acetate) afforded 1.14 g (89%) of 6-allyloxyquinoline as brown oil. MS ESI m/z 185 [M+H]+.

reactant | sodium hydride | 8.3 mmol, 0.33 g | [H-].[Na+]
reactant | 6-hydroxyquinoline | 6.9 mmol, 1.0 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | allyl bromide | 8.3 mmol, 0.72 ml | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-allyloxyquinoline | 1.14 g, 89% | C(C=C)OC=1C=C2C=CC=NC2=CC1 | C12H11NO
